Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
substernal mass in the right thyroid lobe
 
Major Surgical or Invasive Procedure:
Total thyroidectomy (substernal goiter, cervical approach).

 
History of Present Illness:
The patient underwent an ultrasound of his carotids at which 
time a right thyroid mass was seen.  It is a 4 cm mass which on 
FNA is suspicious for papillary thyroid carcinoma.  Nodal survey 
was negative.

There is no known family history of thyroid malignancy or other 
endocrine neoplasia. There is no history of exposure to low dose 
ionizing radiation such as was formerly used for thymic 
enlargment, acne, ringworm, or chronic tonsillitis. The patient 
has no mechanical symptoms from this problem such as pressure or 
difficulty swallowing. 

Has type ll diabetes and a prior melanoma history. 

On general examination the patient appeared to be in good 
health. He has a low lying right thyroid mass. There was no 
regionaladenopathy. On indirect layngoscopy the cords were seen 
to be moving normally. 

The proposed surgery was total thyroidectomy and patient wished 
to proceed.
 
Past Medical History:
HTN      
DIABETES TYPE II                                                
HYPERLIPIDEMIA                                                  
MALIGNANT MELANOMA                                              
HEARING LOSS                                                    
INTERNAL HEMORRHOIDS                                            
GLAUCOMA                                                        
SEBORRHEIC DERMATITIS                                           
LICHEN SIMPLEX CHRONICUS                                        
SEBORRHEIC KERATOSIS                                            
RAYNAUD'S PHENOMENON                                            
SLEEP APNEA           
 
Social History:
___
Family History:
There is no known family history of thyroid malignancy or other 
endocrine neoplasia.
 
Physical Exam:
General: AxOx3. Appears well
HEENT: Eyes anicteric. PEERLA. EOMI. Mucus membranes appear
moist. Neck incision appears CDI with no associated hematoma.
Chest: Symmetric. CTAB. 
Cards: RRR. Nl S1/S2. No M/R/G.
Abdomen: nondistended, nontender
Neuro: Moving all extremities equally. Sensation grossly intact.
___ strength UE and ___. 

 
Pertinent Results:
___ 06:00AM BLOOD Albumin-4.4 Calcium-8.9
___ 10:30AM BLOOD ___-___ M with 4 cm mass on R thyroid lobe, FNA suspicious for 
papillary thyroid carcinoma s/p total thyroidectomy. Patient 
tolerated the procedure well; for full details of surgery refer 
to the operative report dictated separately. Patient was 
admitted to the floor overnight for observation and hospital 
course was stable. 

Neuro: Patient reported minimal incisional neck pain and sore 
throat which improved with current pain medication regimen. 
Resp: No issues. Patient was extubated and weaned to room air.
GI: Patient's had no dysphagia, and diet was advanced from 
clears to regular and tolerated well.
GU: Patient did not have a foley and voided spontaneously. 
Endocrine: Patient had no symptoms of hypocalcemia such as 
numbness/tingling in mouth/hands/toes.  POD#1,calcium 9.1. 
Patient started on thyroid hormone replacement in the form of 
Levothyroxine 125 mcg daily.
Activity: Patient was ambulating independently following 
surgery.
Tubes/Lines/Drains: Patient did not have a drain.

At the time of discharge, patient was tolerating a regular diet, 
voiding, doing activity as appropriate. The patient was given 
appropriate prescriptions and instructions to followup in 
clinic.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactobacillus acidophilus 0 0 oral Other 
2. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID 
5. amLODIPine 5 mg PO DAILY 
6. Atorvastatin 40 mg PO QPM 
7. Multivitamins 1 TAB PO DAILY 
8. ubidecarenone-omega 3-vit E 0 0 oral QHS 
9. Glucosamine Chondroitin (glucos sul 2KCl-msm-chond-C-Mn) 0 0 
oral unknown 
10. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
11. Omeprazole 20 mg PO EVERY OTHER DAY 
12. Aspirin 81 mg PO DAILY 
13. glimepiride 2 mg oral BID 
14. pyridoxine-chromium picolinate 0 0 oral unknown 
15. Ascorbic Acid 0 mg PO Frequency is Unknown 
16. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H Duration: 7 Days 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0 
2.  Levothyroxine Sodium 125 mcg PO DAILY 
RX *levothyroxine 125 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
3.  amLODIPine 5 mg PO HS  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID  
7.  glimepiride 2 mg oral BID  
8.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  MetFORMIN (Glucophage) 1000 mg PO BID  
10.  Multivitamins 1 TAB PO DAILY  
11.  Omeprazole 20 mg PO DAILY  
12.  pyridoxine-chromium picolinate 0 0 oral Frequency is 
Unknown  
13.  ubidecarenone-omega 3-vit E 0 0 oral QHS  
14.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rule out papillary thyroid cancer.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,
You were admitted to ___ overnight for observation following 
your surgery.You did well postoperatively and were discharged 
home once you were eating, on oral medications, walking, and 
completing daily activities as normal. 
Medications: You were started on thyroid hormone medication, 
take as prescribed. For pain medication you may take 
acetaminophen (Tylenol) as directed. You may restart all your 
usual home medications.

Symptoms of low calcium: If you develop tingling or numbness 
around your mouth, fingertips or legs, this may be a sign of a 
low calcium and you should call Dr. ___. If you 
develop severe symptoms, please go to emergency room.

Wound care:You may shower normally starting tonight ___. 
Allow warm soapy water to run over the wound, rinse and pat dry 
gently. There is no need to keep a dressing over the wound. Do 
not apply creams or ointments. Do not submerge the wound in a 
swimming pool or bath until cleared at your follow up visit. Do  
not pull off the steri strip tapes--these will fall off by 
themselves over the next ___ weeks.

Diet:You may resume your regular home diet without restriction. 
You 
should use stick to foods that do not upset your stomach. You 
may need to start with small meals first and may not feel very 
hungry at first. This will improve over time. You may supplement 
your diet with protein shakes as needed if you do not feel you 
are taking in enough nutrition.

Activity:You may resume all of your normal home activities, 
except for straining or lifting heavy weight. We recommend you 
resume walking, exercise, bathing, per your normal regimen. 

Warning signs:
You should contact our clinic or return to the ED immediately if 
you experience any of the following signs or symptoms:
Fever above 101.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 
or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for follow up 
following your discharge from the hospital. 

Best wishes,
Your ___ Care Team

 
Followup Instructions:
___